US07943607B2
Methyl 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(phenylmethyl)oxy]benzoate
Cesium carbonate (41.2 g, 126.4 mmol) was added to a solution of methyl 3-hydroxy-5-{[phenylmethyl]oxy}benzoate (10.9 g, 42.25 mmol) and 3-chloro-2,4-difluoro-N-(2-hydroxyethyl)-N-methylbenzamide (11.6 g, 46.4 mmol) in acetonitrile (210 mL) and the stirred mixture heated at 160° C. in a microwave reactor for 8 hours. The mixture was cooled to RT and pressure, the acetonitrile evaporated in vacuo, and the residue partitioned between water (500 mL) and ethyl acetate (300 mL). The mixture was adjusted to pH 2, the organic layer washed with brine, dried (MgSO4) and evaporated to a residue (shown to contain a large amount of acid). The mixture was added to a solution of thionyl chloride (11.7 mL, 160 mmol) in methanol (120 mL) at −35° C., the solution stirred at −35° C. for 1 hour then allowed to come to RT and stirred for 18 hours. The methanol was evaporated in vacuo to a residue which was partitioned between ethyl acetate (250 mL) and a saturated sodium hydrogen carbonate solution (175 mL). The organic layer was washed with a saturated sodium hydrogen carbonate solution (3×75 mL), brine, dried (MgSO4) and evaporated in vacuo to a residue which was chromatographed on silica, eluting with 50% ethyl acetate in isohexane, to give the desired compound (8.8 g).

reactant | Cesium carbonate | 126.4 mmol, 41.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 3-hydroxy-5-{[phenylmethyl]oxy}benzoate | 42.25 mmol, 10.9 g | OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C15H14O4
reactant | 3-chloro-2,4-difluoro-N-(2-hydroxyethyl)-N-methylbenzamide | 46.4 mmol, 11.6 g | ClC=1C(=C(C(=O)N(C)CCO)C=CC1F)F | C10H10ClF2NO2
reactant | thionyl chloride | 160 mmol, 11.7 mL | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 210 mL | C(C)#N | C2H3N
solvent | methanol | 120 mL | CO | CH4O
product | Methyl 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(phenylmethyl)oxy]benzoate | 8.8 g | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)OC)C=C(C2)OCC2=CC=CC=C2 | C25H22ClNO6
